US04307072
B. Preparation of 5-Acetamido-2,4,6-triiodoisophthaloyl chloride.
A mixture of 50 ml. of acetic anhydride and 0.1 ml. of conc. sulfuric acid was stirred at room temperature for 5 minutes. To this mixture was added 15 g. (0.025 mole) of 5-amino-2,4,6-triiodoisophthaloyl chloride in one portion and stirring was continued at room temperature for one hour. The mixture was stored overnight at 0°. Filtration furnished 16 g. of solid material. The product was recrystallized from ethyl acetate to furnish 10 g. (63%) of pure product. The compound was shown to be pure by tlc (silica plate-benzene/acetone 80/20).

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-2,4,6-triiodoisophthaloyl chloride | 0.025 mole | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
solvent | benzene acetone | C1=CC=CC=C1.CC(=O)C
product | 5-Acetamido-2,4,6-triiodoisophthaloyl chloride | C(C)(=O)NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C10H4Cl2I3NO3
